US09376442B2
4-[2-(cyclopropylmethoxy)-5-(trifluoromethyl)phenyl]-6-methyl-N-[trans-4-(propanoylamino)cyclohexyl]-5H-pyrrolo[3,2-d]pyrimidine-7-carboxamide
Starting from N-(trans-4-aminocyclohexyl)-4-[2-(cyclopropylmethoxy)-5-(trifluoromethyl)phenyl]-6-methyl-5H-pyrrolo[3,2-d]pyrimidine-7-carboxamide hydrochloride (example D.f32) and commercially available propionyl chloride the title compound is obtained as colorless solid. Alternative the above obtained solid is re-crystalised from ethylene glycol/water mixture (5/1).

reactant | N-(trans-4-aminocyclohexyl)-4-[2-(cyclopropylmethoxy)-5-(trifluoromethyl)phenyl]-6-methyl-5H-pyrrolo[3,2-d]pyrimidine-7-carboxamide hydrochloride | Cl.N[C@@H]1CC[C@H](CC1)NC(=O)C1=C(NC2=C1N=CN=C2C2=C(C=CC(=C2)C(F)(F)F)OCC2CC2)C
reactant | propionyl chloride | C(CC)(=O)Cl | C3H5ClO
product | 4-[2-(cyclopropylmethoxy)-5-(trifluoromethyl)phenyl]-6-methyl-N-[trans-4-(propanoylamino)cyclohexyl]-5H-pyrrolo[3,2-d]pyrimidine-7-carboxamide | C1(CC1)COC1=C(C=C(C=C1)C(F)(F)F)C=1C2=C(N=CN1)C(=C(N2)C)C(=O)N[C@@H]2CC[C@H](CC2)NC(CC)=O | C28H32F3N5O3
